US04418073
5.1 g (0.05 mol) of triethylamine were added dropwise to a mixture of 11.3 g (0.05 mol) of N-methyl-N-trichloromethylthio-carbamoyl fluoride, 4.9 g (0.05 mol) of 1-methyl-4-hydroxypyrazole and 150 ml of toluene. After 4 hours, the mixture was extracted twice with 25 ml of water each time. The organic phase was dried over sodium sulphate and evaporated in vacuo. The residue was subjected to incipient distillation under a high vacuum. 12.5 g (82% of theory) of N-methyl-N-trichloromethylthiocarbamic acid O-(1-methyl-pyrazol-4-yl) ester were thus obtained in the form of a yellow oil with a refractive index nD23 of 1.5492.

reactant | triethylamine | 0.05 mol, 5.1 g | C(C)N(CC)CC | C6H15N
reactant | N-methyl-N-trichloromethylthio-carbamoyl fluoride | 0.05 mol, 11.3 g | CN(C(=S)F)C(Cl)(Cl)Cl | C3H3Cl3FNS
reactant | 1-methyl-4-hydroxypyrazole | 0.05 mol, 4.9 g | CN1N=CC(=C1)O | C4H6N2O
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | N-methyl-N-trichloromethylthiocarbamic acid O-(1-methyl-pyrazol-4-yl) ester | 12.5 g, 82% | CN1N=CC(=C1)OC(N(C(Cl)(Cl)Cl)C)=S | C7H8Cl3N3OS
